US06204264B1
Ethyl 1-[3-(dimethylamino)propyl]-2-heptadecyl-1H-benzimidazole-5-carboxylate monohydrochloride (Compound 18)
4N Hydrochloric acid/ethyl acetate solution (0.19 ml) was added to a solution containing ethyl 1-[3-(dimethylamino)propyl]-2-heptadecyl-1H-benzimidazole-5-carboxylate (0.38 g) in ethyl acetate (4 ml). After being stirred for 10 minutes at room temperature, the reaction mixture was concentrated. The residue was recrystallized with ethyl acetate, thereby yielding the entitled compound (0.29 g) as grayish yellow solid.

reactant | Hydrochloric acid ethyl acetate | 4N, 0.19 ml | Cl.C(C)(=O)OCC
reactant | ethyl 1-[3-(dimethylamino)propyl]-2-heptadecyl-1H-benzimidazole-5-carboxylate | 0.38 g | CN(CCCN1C(=NC2=C1C=CC(=C2)C(=O)OCC)CCCCCCCCCCCCCCCCC)C | C32H55N3O2
solvent | ethyl acetate | 4 ml | C(C)(=O)OCC | C4H8O2
product | Ethyl 1-[3-(dimethylamino)propyl]-2-heptadecyl-1H-benzimidazole-5-carboxylate monohydrochloride | 0.29 g | Cl.CN(CCCN1C(=NC2=C1C=CC(=C2)C(=O)OCC)CCCCCCCCCCCCCCCCC)C | InChI=1S/C32H55N3O2.ClH/c1-5-7-8-9-10-11-12-13-14-15-16-17-18-19-20-22-31-33-29-27-28(32(36)37-6-2)23-24-30(29)35(31)26-21-25-34(3)4;/h23-24,27H,5-22,25-26H2,1-4H3;1H
